US04097472
To a stirred solution of 2.2 g of ethyl 2-piperidinecarboxylate and 4.1 ml of triethylamine in 50 ml of chloroform, which was cooled in an ice-salt bath, was added in portions N2 -(6-methoxy-2-naphthylsulfonyl)-L-arginyl chloride obtained above. The reaction mixture was stirred overnight at room temperature. At the end of this period, 500 ml of chloroform was added and the chloroform solution was washed twice with 50 ml of saturated sodium chloride solution, dried over anhydrous sodium sulfate and evaporated in vacuo. The oily residue was washed with ethyl ether to give 2.9 g of powdery ethyl 1-[N2 -(6-methoxy-2-naphthylsulfonyl)-L-arginyl]-2-piperidinecarboxylate. For analysis of the product, a portion of the product was converted to the flavianate, M.P. 192°-3° C. I.R. (KBr): 3,210, 1,747, 1,638 cm-1.

reactant | ethyl 2-piperidinecarboxylate | 2.2 g | N1C(CCCC1)C(=O)OCC | C8H15NO2
reactant | triethylamine | 4.1 ml | C(C)N(CC)CC | C6H15N
reactant | N2 (6-methoxy-2-naphthylsulfonyl)-L-arginyl chloride | N#N.COC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 1-[N2 -(6-methoxy-2-naphthylsulfonyl)-L-arginyl]-2-piperidinecarboxylate | 2.9 g | COC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1C(CCCC1)C(=O)OCC | C25H35N5O6S
